US06518423B1
Ethyl [1-(tert-butoxycarbonyl)piperidin-4-ylidene]acetate
51.0 g of ethyl (1-benzylpiperidin-4-ylidene)acetate was dissolved in 200 ml of dichloroethane. After adding 36.5 g of 1-chloroethyl chloroformate under ice-cooling, the resulting mixture was heated under reflux for 2 hours. After adding 100 ml of methanol, the resulting mixture was further heated under reflux for 40 minutes and then allowed to stand at room temperature overnight. Then 60 g of triethylamine was added to the reaction mixture under ice-cooling. Further, 300 ml of methanol was added thereto and the system was made homogeneous. Next, 47.2 g of tert-butyl dicarbonate was added and the resulting mixture was stirred at room temperature for 20 minutes. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with 1 N hydrochloric acid, water, a saturated aqueous solution of sodium chloride and saturated sodium hydrogencarbonate and dried over anhydrous magnesium sulfate followed by filtration. After distilling off the solvent under reduced pressure, the crude crystals thus obtained were ground and washed with hexane to thereby give 15.2 g of the title compound. The filtrate was concentrated and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 37.8 g of the additional title compound as colorless crystals.

reactant | ethyl (1-benzylpiperidin-4-ylidene)acetate | 51.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC(=O)OCC | C16H21NO2
reactant | 1-chloroethyl chloroformate | 36.5 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | tert-butyl dicarbonate | 47.2 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
solvent | methanol | 300 ml | CO | CH4O
solvent | triethylamine | 60 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | Ethyl [1-(tert-butoxycarbonyl)piperidin-4-ylidene]acetate | 15.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC(=O)OCC | C14H23NO4
